US05840726
2-[(S)-2-(1H-Indol-3-yl)-1-carboxymethyl-ethylamino]-N-(2-phenyl-ethyl)-ethylamine hydrochloride disalt
Combine 2-[(S)-2-(1H-Indol-3-yl)-1-carboxymethyl-ethylamino]-N-(t-butoxycarbonyl)-N-(2-phenyl-ethyl)-ethylamine (4.77 g, 10 mmol) and diethyl ether (50 mL). Cool to 0° C. in an ice-bath. Slowly pass hydrogen chloride gas through the solution for 30 minutes. Stir for 4 hour at 0° C. Warm to ambient temperature and stir for 1 hour. Evaporate in vacuo to give a residue. Dissolve the residue in methanol and triturate the residue with diethyl ether to form a solid. Filter and dry under vacuum to give the title compound. Elem. Anal. calculated for C22H27N3 O2 . 0.50 H2O: C, 59.06; H, 6.76; N, 9.39. Found: C, 58.90; H, 7.01; N, 9.18.

reactant | 2-[(S)-2-(1H-Indol-3-yl)-1-carboxymethyl-ethylamino]-N-(t-butoxycarbonyl)-N-(2-phenyl-ethyl)-ethylamine | 10 mmol, 4.77 g | N1C=C(C2=CC=CC=C12)C[C@@H](CC(=O)O)NCCN(CCC1=CC=CC=C1)C(=O)OC(C)(C)C | C27H35N3O4
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 2-[(S)-2-(1H-Indol-3-yl)-1-carboxymethyl-ethylamino]-N-(2-phenyl-ethyl)-ethylamine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)C[C@@H](CC(=O)O)NCCNCCC1=CC=CC=C1 | InChI=1S/C22H27N3O2.ClH/c26-22(27)15-19(14-18-16-25-21-9-5-4-8-20(18)21)24-13-12-23-11-10-17-6-2-1-3-7-17;/h1-9,16,19,23-25H,10-15H2,(H,26,27);1H/t19-;/m0./s1
